US08049016B2
Preparation of (S)-ethyl 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)propyl)amino)-4-methylthiazole-5-carboxylate
To a mixture of ethyl 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylate (0.29 g, 1.00 mmol), (S)-(+)-2-amino-1-propanol (0.18 g, 1.00 mmol) and diphenyl-2-pyridinylphosphine (0.40 g, 1.50 mmol) in anhydrous tetrahydrofuran (20.0 mL) was added diethyl azodicarboxylate (0.26 g, 1.50 mmol) at 0° C. The resulting solution was stirred at ambient temperature for 0.5 h. Additional diphenyl-2-pyridinylphosphine (0.13 g, 0.50 mmol) and diethyl azodicarboxylate (0.096 g, 0.50 mmol) were added to the reaction mixture and stirred at ambient temperature for 4 h. The reaction mixture was diluted with ethyl acetate (80 mL) and washed with 25% aqueous ammonium chloride solution (3×20 mL). The organic layer was dried over anhydrous sodium sulphate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography eluted with 15-45% ethyl acetate in hexanes to afford the title compound as a colorless oil (0.35 g, 78%): 1H NMR (300 MHz, CDCl3) δ 5.30 (s, 1H), 4.26 (q, J=7.1 Hz, 2H), 4.18-3.95 (m, 3H), 2.59 (s, 3H), 1.58 (s, 9H), 1.33-1.28 (m, 12H), 1.17 (d, J=6.3 Hz, 3H); MS (ES+) m/z 244 (M−2Boc+1).

reactant | ethyl 2-(tert-butoxycarbonylamino)-4-methylthiazole-5-carboxylate | 1.00 mmol, 0.29 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C)C(=O)OCC | C12H18N2O4S
reactant | (S)-(+)-2-amino-1-propanol | 1.00 mmol, 0.18 g | N[C@H](CO)C | C3H9NO
reactant | diphenyl-2-pyridinylphosphine | 1.50 mmol, 0.40 g | C1(=CC=CC=C1)P(C1=NC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | diethyl azodicarboxylate | 1.50 mmol, 0.26 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenyl-2-pyridinylphosphine | 0.50 mmol, 0.13 g | C1(=CC=CC=C1)P(C1=NC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | diethyl azodicarboxylate | 0.50 mmol, 0.096 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 20.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (S)-ethyl 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)propyl)amino)-4-methylthiazole-5-carboxylate | 0.35 g, 78% | C(C)(C)(C)OC(=O)N(C=1SC(=C(N1)C)C(=O)OCC)C[C@H](C)NC(=O)OC(C)(C)C | C20H33N3O6S
